US06891066B2
To a stirring solution of the product of Example 31, Step E, N-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide (0.515 g, 1.213 mmol) in methanol (10 mL) and water (1 mL) was added p-toluenesulfonic acid (0.115 g, 0.607 mmol). After stirring for 17 hours the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed twice saturated sodium carbonate solution and twice with brine. The organic layer was collected, dried over sodium sulfate, filtered and concentrated in vacuo to afford N-[(R)-2,3-dihydroxy-propoxy]-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide (0.440 g, 94.4%) as a clear oil/foam. 1NMR (400 MHz; CD3OD) δ 7.35 (1 H, m), 6.84-6.95 (3 H, m), 6.76-6.79 (1 H, m), 3.91-3.94 (1 H, m), 3.81-3.85 (2 H, m), 3.53-3.55(2 H, m), 2.57(2 H, q, J=15.1, 7.6 Hz), 1.19(3 H, t, J=7.6 Hz); 19F-NMR (376 MHz; CD3OD) δ −132.3, −134.8, −147.3; MS(APCI+)=385; Anal. calcd/found for C18H19F3N2O4: C, 56.25/56.22; H, 4.98/4.93; N, 7.29/7.17; [α]25D −5.6° (c 10.8, EtOH).

reactant | N-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide | 1.213 mmol, 0.515 g | CC1(OC[C@@H](O1)CONC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)CC)F)=O)C | C21H23F3N2O4
reactant | p-toluenesulfonic acid | 0.607 mmol, 0.115 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | N-[(R)-2,3-dihydroxy-propoxy]-2-(4-ethyl-2-fluoro-phenylamino)-3,4-difluoro-benzamide | 0.440 g, 94.4% | O[C@@H](CONC(C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)CC)F)=O)CO | C18H19F3N2O4
